### PR TITLE
[Merged by Bors] - chore(Data/Nat/Factorization/PrimePow): golf `isPrimePow_pow_iff`

### PR DESCRIPTION
**Pull request by ShreckYe**
Found this while working on #28557.

### CODE REVIEW

**Comment by ShreckYe** [comment]
easy

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 1]
```diff
@@ -103,7 +103,7 @@ theorem isPrimePow_pow_iff {n k : ℕ} (hk : k ≠ 0) : IsPrimePow (n ^ k) ↔ I
   apply existsUnique_congr
   simp only [and_congr_right_iff]
   intro p hp
-  exact ⟨hp.dvd_of_dvd_pow, fun t => t.trans (dvd_pow_self _ hk)⟩
+  exact Prime.dvd_pow_iff_dvd (Nat.prime_iff.mp hp) hk
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]: If you want to golf more, the whole proof can be:
```
  simp only [isPrimePow_iff_unique_prime_dvd]
  apply existsUnique_congr
  simp +contextual [Nat.prime_iff, Prime.dvd_pow_iff_dvd, hk]
```

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Data/Nat/Factorization/PrimePow.lean (hunk 1 above)
Comment (ShreckYe) [reply Mathlib/Data/Nat/Factorization/PrimePow.lean]: Thanks. Suggestion commited.
